US05364844
14(a) (2S, 4S, 5S)-5-[N-(t-Butoxycarbonyl)-3-(4-thiazolyl)-L-alanyl]amino-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N-ethylhexanamide
A procedure similar to that described in Example 9(a) was repeated, except that 280 mg (0.675 mmoles) of (2S, 4S, 5S)-5-(t-butoxycarbonylamino)-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N-ethylhexanamide (prepared as described in Preparation 24) were used instead of the (2S, 4S, 5S)-5-(t-butoxycarbonylamino)-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N-methylhexanamide, and 190 mg (0.7 mmoles) of N-(t-butoxycarbonyl)-3-(4-thiazolyl)-L-alanine, 0.4 ml (2.88 mmoles) of triethylamine, and 0.11 ml (0.688 mmoles) of diethyl cyanophosphate were also used, to give a powdery substance, which was then recrystallized from a mixture of diisopropyl ether and methylene chloride, to afford 309 mg of the title compound, melting at 189°-191° C.

reactant | (2S, 4S, 5S)-5-(t-butoxycarbonylamino)-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N-ethylhexanamide | 0.675 mmoles, 280 mg | C(C)(C)(C)OC(=O)N[C@H]([C@H](C[C@H](C(=O)NCC)C(C)(C)O)O)CC1CCCCC1 | C22H42N2O5
reactant | (2S, 4S, 5S)-5-(t-butoxycarbonylamino)-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N-methylhexanamide | C(C)(C)(C)OC(=O)N[C@H]([C@H](C[C@H](C(=O)NC)C(C)(C)O)O)CC1CCCCC1 | C21H40N2O5
reactant | N-(t-butoxycarbonyl)-3-(4-thiazolyl)-L-alanine | 0.7 mmoles, 190 mg | C(C)(C)(C)OC(=O)N[C@@H](CC=1N=CSC1)C(=O)O | C11H16N2O4S
reactant | triethylamine | 2.88 mmoles, 0.4 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphate | 0.688 mmoles, 0.11 ml | P(=O)(OCC)(OCC)C#N | C5H10NO3P
product | (2S, 4S, 5S)-5-[N-(t-Butoxycarbonyl)-3-(4-thiazolyl)-L-alanyl]amino-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N-ethylhexanamide | 309 mg | C(C)(C)(C)OC(=O)N[C@@H](CC=1N=CSC1)C(=O)N[C@H]([C@H](C[C@H](C(=O)NCC)C(C)(C)O)O)CC1CCCCC1 | C28H48N4O6S
